US05302752
Ethyl 2-(4-[perfluorohexyl]phenyl)propionate (100 mg, 0.20 mmol) was dissolved in 5 mL of ethanol and 5 mL of 1N NaOH. The solution was heated to reflux for 1 hour, cooled to room temperature, poured into 30 mL of 1N HCl and extracted with three 10-mL portions of dicholormethane. Combination, drying (MgSO4), and concentration of the organic layers gave a residue which was purified by PTLC (one 2 mm silica gel plate eluted with 15% methanol-85% dichloromethane) to give 54 mg (57% yield) of 2-(4-[perflurohexyl]phenyl)propionic acid as a white powder.

reactant | Ethyl 2-(4-[perfluorohexyl]phenyl)propionate | 0.20 mmol, 100 mg | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(C1=CC=C(C=C1)C(C(=O)OCC)C)F | C17H13F13O2
reactant | HCl | 1N, 30 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | NaOH | 1N, 5 mL | [OH-].[Na+]
product | 2-(4-[perflurohexyl]phenyl)propionic acid | 54 mg, 57% yield | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(C1=CC=C(C=C1)C(C(=O)O)C)F | C15H9F13O2
